US06107458
A mixture of Methyl 3-[4-(4-pentylphenyl)phenyl]acrylate (2.0 g) and 10% palladium on carbon (50% wet, 0.2 g) in tetrahydrofuran (20 ml) was stirred for 8 hours under atmospheric pressure of hydrogen at ambient temparature. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give Methyl 3-[4-(4-pentylphenyl)phenyl]propionate (1.93 g).

reactant | Methyl 3-[4-(4-pentylphenyl)phenyl]acrylate | 2.0 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C=CC(=O)OC | C21H24O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Methyl 3-[4-(4-pentylphenyl)phenyl]propionate | 1.93 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)OC | C21H26O2
